US05434151
trans-2-(3-Methoxy-4-propoxy-5-benzylaminophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrofuran (Compound 3, FIG. 4)
trans-2-(3-Methoxy-4-propoxy-5-nitrophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrofuran (50 mg, 0.12 mmole) and potassium carbonate (1.0 g) were suspended in 2 mL of DMF. Benzyl bromide (205.1 mg, 1.2 mmole) was added and the suspension was stirred at room temperature for 20 hours. The reaction was quenched with water and extracted with dichloromethane. The organic layer was dried over MgSO4, filtered and evaporated in vacuo to an oil that was purified by column chromatography with hexane/ethyl acetate solvent (yield 50.2 mg, 82.6%).

reactant | trans-2-(3-Methoxy-4-propoxy-5-nitrophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrofuran | 0.12 mmole, 50 mg | COC=1C=C(C=C(C1OCCC)[N+](=O)[O-])[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C23H29NO8
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl bromide | 1.2 mmole, 205.1 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | trans-2-(3-Methoxy-4-propoxy-5-benzylaminophenyl)-5-(3,4,5-trimethoxyphenyl)-tetrahydrofuran | COC=1C=C(C=C(C1OCCC)NCC1=CC=CC=C1)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C30H37NO6
